US06977262B2
Ethyl 4,7-dihydro-6-methyl-4-(2-trifluoromethylphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-trifluoromethylbenzaldehyde, 3-aminopyrazole and ethyl acetoacetate in the same manner as in Example 1.

reactant | 2-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | Ethyl 4,7-dihydro-6-methyl-4-(2-trifluoromethylphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | CC1=C(C(C=2C(N1)=NNC2)C2=C(C=CC=C2)C(F)(F)F)C(=O)OCC | C17H16F3N3O2
